US09371333B2
2-Amino-4-(3,4,5-trifluoro-phenyl)-4H-benzo[g]chromene-3-carboxylic acid ethyl ester (27)
2-Naphthol (170 mg, 1.2 mmol), 3,4,5-trifluorobenzaldehyde (160 mg, 1 mmol) and ethyl cyanoacetate (113 mg, 1 mmol) were taken in 7 ml ethanol at room temperature, charged with piperidine (50 μL) and then stirred at 80° C. under LC-MS control till the reaction was complete. The reaction mixture was cooled down to room temperature, diluted with water to about 15 ml, stirred for 1 h, solids were collected by filtration, washed with 60% aq ethanol and dried (346 mg, 0.86 mmol, 86%).

reactant | 2-Naphthol | 1.2 mmol, 170 mg | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 3,4,5-trifluorobenzaldehyde | 1 mmol, 160 mg | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | ethyl cyanoacetate | 1 mmol, 113 mg | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 50 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-4-(3,4,5-trifluoro-phenyl)-4H-benzo[g]chromene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(OC2=CC3=C(C=C2C1C1=CC(=C(C(=C1)F)F)F)C=CC=C3)N | C22H16F3NO3
